US09334290B2
A mixture of 4-bromo-2-hydrazinyl-5-methylbenzoic acid hydrochloride (2.17 g, 7.71 mmol), ethyl 3-oxocyclohexanecarboxylate (1.44 g, 8.48 mmol) and acetic acid (1.32 mL, 23.1 mmol) in toluene (40 mL) was heated in an oil bath at 117° C. for 5 h. The mixture was concentrated and dried under vacuum, and the residue was diluted with toluene (18 mL) and TFA (4.5 mL). The mixture was heated at 90° C. overnight. The cooled mixture was diluted with EtOAc, sonicated, and the precipitate was collected by filtration and washed with EtOAc to give a yellow solid. The filtrate was concentrated and the residue was suspended in EtOAc with sonication. The precipitate was collected by filtration and combined with the first precipitate. The solid was triturated with MeOH to give 5-bromo-2-(ethoxycarbonyl)-6-methyl-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid as a pale yellow solid (1.60 g, 55% yield). Mass spectrum m/z 380, 382 (M+H)+.

reactant | 4-bromo-2-hydrazinyl-5-methylbenzoic acid hydrochloride | 7.71 mmol, 2.17 g | Cl.BrC1=CC(=C(C(=O)O)C=C1C)NN
reactant | ethyl 3-oxocyclohexanecarboxylate | 8.48 mmol, 1.44 g | O=C1CC(CCC1)C(=O)OCC | C9H14O3
reactant | acetic acid | 23.1 mmol, 1.32 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-2-(ethoxycarbonyl)-6-methyl-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid | 1.60 g, 55% yield | BrC1=C2C=3CCC(CC3NC2=C(C=C1C)C(=O)O)C(=O)OCC | C17H18BrNO4
